Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a ___ y/o male with a history of asthma/COPD, 
pectus
excavatum s/p multiple corrective procedures, moderate-to-severe
restrictive lung disease, and recurrent pneumonia who presents
with shortness of breath, cough and fever. 

The patient reports initially having fatigue, shaking chills,
night sweats, nausea and vomiting five days ago. He had two
extended sessions of non-bloody, non-bilious clear emesis that
day. He then developed shortness of breath, chest tightness, and
cough 4 days ago that has progressed since that time. No fevers
at home. His cough was initially productive of dark sputum but
has become nonproductive recently. Additionally, he describes
persistent dyspnea both at rest and with exertion that 
progressed
to the point of not being able to walk more than a few steps
without gasping. His chest discomfort is located centrally and
over his lower ribs, described as a sharp/stabbing pain. It
occurs intermittently and is worsened by palpation, coughing, 
and
deep breaths. He had been taking aleve and acetaminophen for 
pain
control and continued using his home symbicort, Spiriva, and
albuterol inhalers. Otherwise, no abodminal pain, diarrhea, URI
symptoms, or other systemic symptoms. No history of DVT/PE, sick
contacts, recent travel abroad, or recent hospitalizations. Last
episode of pneumonia occurred in ___. 

The patient presented to his PCP, ___, on ___ for
his symptoms. Given visible respiratory distress, he was placed
on 4L NC and sent by ambulance to the ED. 

In the ED:
- Initial vital signs were notable for: Temp 100.3F BP 95/72 HR
152 RR 22 92% on 4L NC 

- Exam notable for: Tachypneic, speaking mostly in full
sentences. RRR. CTAB. Abdomen soft, NT/ND. 

- Labs were notable for:
BMP: Na 138, K 3.8, Cl 97 CO2 21, BUN/Cr ___, BG 85  AG 20 
CBC: WBC 20.5, H/H 13.5/41.9, plt 324
Trop-T <0.01
Lactate 2.1->2.9; VBG 7.38/45
Influenza neg
UA with trace bld, 30 protein, 10 ketones 

- Studies performed include:
CXR: Pulmonary vascular congestion suspected with left lower 
lobe
consolidation concerning for pneumonia.

- Patient was given: 3L IV fluids, IV methylpred 80mg, IV CTX, 
IV
azithromycin 500mg, duoneb, acetaminophen 1000mg po

- Consults: None

Vitals on transfer: Temp 97.8F BP 134/81 HR 100 RR 24 97% on RA 

Upon arrival to the floor, the patient reports feeling much
better. He notes that his shortness of breath, cough, and chest
tightness are all improving. 

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.

 
Past Medical History:
Asthma/COPD
Pectus excavatum s/p ___ procedure
Perforated nasal septum 
Borderline hypertension
Recurrent pneumonia 
 
Social History:
___
Family History:
Mother and sister with seizure disorder. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
===========================
VITALS: Temp 97.6F BP 116/77 HR 91 RR 20 97% on 5L 
GENERAL: WDWN male in NAD. Sitting comfortably in bed.
HEENT: NCAT. PERRL. Sclera anicteric and without injection.
Oropharynx clear. 
NECK: Supple. No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
RESP: Normal respiratory effort. Crackles over left base,
otherwise CTAB without wheezes or rhonchi. No egophony over left
base. 
ABDOMEN: Normoactive BS. Soft, NT/ND. No guarding or masses. 
MSK: Warm, well perfused. No ___ edema or erythema. Chest wall
deformities present. 
SKIN: Warm, dry. No rashes. 
NEUROLOGIC: Alert and interactive. CN2-12 grossly intact. Moves
all extremities. 
PSYCH: appropriate mood and affect. 

DISCHARGE PHYSICAL EXAM
=============================
VITALS:24 HR Data (last updated ___ @ 2252)
    Temp: 97.7 (Tm 98.8), BP: 134/91 (126-148/79-94), HR: 80
(70-89), RR: 18, O2 sat: 91% (91-96), O2 delivery: Ra  
GENERAL: WDWN male in NAD. Sitting comfortably in bed.
HEENT: NCAT. PERRL. Sclera anicteric and without injection.
Oropharynx clear. 
NECK: Supple. No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
RESP: Normal respiratory effort. CTAB with wheezes and some
rhonchi. No egophony over left base. 
ABDOMEN: Normoactive BS. Soft, NT/ND. No guarding or masses. 
MSK: Warm, well perfused. No ___ edema or erythema. Chest wall
deformities present. 
SKIN: Warm, dry. No rashes. 
NEUROLOGIC: Alert and interactive. Moves all extremities. 
PSYCH: appropriate mood and affect. 
 
Pertinent Results:
ADMISSION LABS
=================
___ 04:35PM BLOOD WBC-20.5* RBC-4.62 Hgb-13.5* Hct-41.9 
MCV-91 MCH-29.2 MCHC-32.2 RDW-14.0 RDWSD-46.1 Plt ___
___ 04:35PM BLOOD Neuts-93.5* Lymphs-1.9* Monos-3.4* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-19.16* AbsLymp-0.38* 
AbsMono-0.70 AbsEos-0.06 AbsBaso-0.06
___ 04:35PM BLOOD Glucose-85 UreaN-19 Creat-1.0 Na-138 
K-3.8 Cl-97 HCO3-21* AnGap-20*
___ 04:35PM BLOOD cTropnT-<0.01
___ 04:35PM BLOOD Calcium-9.9 Phos-3.0 Mg-2.0
___ 04:48PM BLOOD ___ Temp-38.1 pO2-30* pCO2-45 
pH-7.38 calTCO2-28 Base XS-0 Intubat-NOT INTUBA
___ 04:48PM BLOOD Lactate-2.1*
___ 08:49PM BLOOD Lactate-2.9*

DISCHARGE LABS
==================

___ 05:55AM BLOOD WBC-9.2 RBC-4.08* Hgb-11.7* Hct-37.7* 
MCV-92 MCH-28.7 MCHC-31.0* RDW-14.6 RDWSD-49.5* Plt ___
___ 05:55AM BLOOD Glucose-71 UreaN-20 Creat-0.7 Na-143 
K-4.3 Cl-101 HCO3-28 AnGap-14
___ 05:55AM BLOOD Calcium-9.0 Phos-4.6* Mg-2.2
___ 05:53AM BLOOD proBNP-745*

IMAGING
===================
TTE ___

The estimated right atrial pressure is ___ mmHg. There is 
normal left ventricular wall thickness with a
normal cavity size. There is suboptimal image quality to assess 
regional left ventricular function. Overall
left ventricular systolic function is normal. Normal right 
ventricular cavity size with normal free wall
motion. There is a normal ascending aorta diameter for gender. 
There is a normal descending aorta
diameter. The aortic valve is not well seen. There is no aortic 
valve stenosis. There is no aortic
regurgitation. The mitral valve leaflets are elongated with 
leaflet straightening, but no frank systolic
prolapse.
IMPRESSION: Poor image quality due to pectus excavatum. Many 
measurements could not be
obtained. Given these limiations the following observations were 
made: 1) Normal left ventricular
wall thickness and biventricular cavity sizes and 
regional/global biventricular systolic function. 2)
RA pressure elevation.

CXR ___
Pulmonary vascular congestion suspected with left lower lobe 
consolidation 
concerning for pneumonia. 

 
Brief Hospital Course:
SUMMARY
======================
Mr. ___ is a ___ y/o male with a history of asthma/COPD, 
pectus
excavatum s/p multiple corrective procedures, moderate-to-severe
restrictive lung disease, and recurrent pneumonia who presented 
to his PCP with shortness of breath, cough and fever, found to 
have
a LLL community acquired pneumonia. He initially required 5L of 
oxygen and was tachycardic to the 150s on arrival. He was given 
IV CTX and azithromycin and steroids. He was gradually weaned 
down on O2 and discharged on cefuroxime to complete a 7 day 
course of antibiotics. 

TRANSITIONAL ISSUE
=======================
[] Patient with TTE here showing increasd PA pressure compared 
to prior TTE in ___ which showed pressure of 17 and now 
increased to 23. 
[] Recommend vasculitis, complement, and/or immunoglobulin 
deficiency workup if patient has not been worked up previously. 
Endorses recurrent infections throughout life and given severe 
presentation this time concerning for underlying process that 
predisposes patient to these infections. 
[] Patient with normocytic anemia of hgb ___ while in the 
hospital. Recommend follow up as outpatient. 

ACUTE ISSUES
===============
#Severe sepsis
#Leukocytosis
#Community acquired pneumonia 
Presented with cough, SOB, and fever to his PCP and was referred 
to the ED. At admission, he met ___ SIRS criteria (WBC, HR, RR) 
with lactic acidosis consistent with severe sepsis. At 
presentation, symptoms, leukocytosis to 20 with left shift, plus 
CXR consistent with LLL community acquired pneumonia. S/p 
adequate fluid resuscitation with 3L in the ED. Treated with CTX 
and azithromycin. Legionella negative and therefore azithromycin 
discontinued and patient ultimately changed to cefuroxime to 
complete a 7 day course of antibiotics (___). Given severe 
initial presentation, treated with 5 day course of steroids as 
well (___). Patent 
without risk factors for PE. Does not endorse history of HCF
symptoms to explain dyspnea however TTE only with evidence of 
mildly elevated pulmonary artery pressure. 

#Acute hypoxic respiratory failure
On 5L NC upon arrival to the floor with sats in the high ___. 
Hypoxia ___ pneumonia and improved with treatment. Weaned off of 
O2 prior to discharge.

#Sinus tachycardia 
HR 150s on admission, EKG with sinus tachycardia. Likely due to
sepsis/infection. Improved to 100s following fluid 
resuscitation.

#AGMA 
#Lactic acidosis 
HCO3 21, AG 20. Lactate up to 2.9 in the ED iso infection. S/p 
3L
IV fluids. Lactate to 1.9 by the next AM. 

CHRONIC ISSUES
===================
#Asthma/COPD
Followed by ___ pulmonology, last seen in ___. Most recent 
PFTs with FVC 36% of predicted, FEV1 26% of predicted, and 
FEV1/FVC 72% of predicted. Sxs had remained stable on 
Spiriva/symbicort.
Continued Spiriva and advair (Symbicort non-formulary). 

#CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
3. Naproxen 375 mg PO Q8H:PRN Pain - Mild 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
6. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1.  cefUROXime axetil 500 mg oral BID Duration: 3 Days 
RX *cefuroxime axetil 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
2.  PredniSONE 40 mg PO DAILY Duration: 4 Doses 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
5.  Naproxen 375 mg PO Q8H:PRN Pain - Mild  
6.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
7.  Tiotropium Bromide 1 CAP IH DAILY  
8.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
===============
Severe LLL Pneumonia
Severe Sepsis 
Acute Hypoxic Respiratory Failure 

SECONDARY
===============
Asthma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
==============================
- You had a severe pneumonia. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
=======================================
- You received IV antibiotics and steroids to treat your 
pneumonia. 
- You initially needed oxygen but we were able to wean you off 
of the oxygen. 
- You had an echo of your heart which was normal. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
===============================================
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___